US06066655
4-(2-Chloro-6-fluorophenyl)-1,4-dihydro-2,6-dimethylpyridine-3,5-dicarboxylic acid monocyclopentyl ester
98 g (0.22 mol) of 2-cyanoethyl cyclopentyl 4-(2-chloro-6-fluorophenyl)-1,4-dihydro-2,6-dimethylpyridine-3,5-dicarboxylate are dissolved in 400 ml of 1,2-dimethoxyethane and the solution is stirred with 400 ml of 1 N sodium hydroxide solution at room temperature overnight.

reactant | 2-cyanoethyl cyclopentyl 4-(2-chloro-6-fluorophenyl)-1,4-dihydro-2,6-dimethylpyridine-3,5-dicarboxylate | 0.22 mol, 98 g | ClC1=C(C(=CC=C1)F)C1C(=C(NC(=C1C(=O)OC1CCCC1)C)C)C(=O)OCCC#N | C23H24ClFN2O4
reactant | sodium hydroxide | 1 N, 400 ml | [OH-].[Na+]
solvent | 1,2-dimethoxyethane | 400 ml | COCCOC | C4H10O2
product | 4-(2-Chloro-6-fluorophenyl)-1,4-dihydro-2,6-dimethylpyridine-3,5-dicarboxylic acid monocyclopentyl ester | C1(CCCC1)OC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1F)Cl)C(=O)O)C)C | C20H21ClFNO4
